US04209625
To a refluxing suspension of lithium triethoxyaluminum hydride (prepared by dropping 12 ml of absolute ethyl alcohol carefully into a cooled slurry of 4.9 g of lithium aluminumhydride in 150 ml of glyme) is added over a 30 minute span a mixture of 8.1 g of 4-(4-chloro-2-fluorophenyl)-4-cyano-1-methylpiperidine in 80 ml of glyme. After total addition, stirring is continued at reflux for 72 hours. Thereafter, the mixture is permitted to cool before successively adding 5 ml of water, 5 ml of a 15% aqueous sodium hydroxide solution and 15 ml of water effecting a precipitate. The precipitate is collected by filtration followed by repeated washings with warm methylene chloride. The filtrate, combined with the washings, is successively washed with water, dried and evaporated to dryness leaving a white crystalline solid. The solid is recrystallized from an acetone-pentane mixture to provide fine needles, mp 172°-173° C. of 6-chloro-1'-methylspiro[indoline-3,4'-piperidine].

reactant | lithium triethoxyaluminum hydride | [H-].C(C)O[Al](OCC)OCC.[Li+]
reactant | lithium | 4.9 g | [Li] | Li
reactant | 4-(4-chloro-2-fluorophenyl)-4-cyano-1-methylpiperidine | 8.1 g | ClC1=CC(=C(C=C1)C1(CCN(CC1)C)C#N)F | C13H14ClFN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | glyme | 150 ml | C(OC)COC | C4H10O2
solvent | glyme | 80 ml | C(OC)COC | C4H10O2
solvent | water | 15 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | ethyl alcohol | 12 ml | C(C)O | C2H6O
product | 6-chloro-1'-methylspiro[indoline-3,4'-piperidine] | ClC1=CC=C2C(=C1)NCC21CCN(CC1)C | C13H17ClN2
